US09328116B2
Synthesis of 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one
A mixture of 3-bromo-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.035 g, 0.095 mmol), 4-chloro-3-methyl-5-(trifluoromethyl)-1H-pyrazole (0.050 g, 0.27 mmol) and K2CO3 (0.050 g, 0.36 mmol) in DMF (0.8 mL) was stirred at 60° C. for 40 min. The mixture was then cooled to room temperature, quenched with water (30 mL), extracted with EtOAc (50 mL), and purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to yield the title compound (0.036 g, 78%). 1H NMR (400 MHz, CDCl3) δ 7.57 (s, 1H), 7.47 (m, 2H), 7.34 (m, 2H), 5.05 (dd, J=9.2, 6.0 Hz, 1H), 4.04 (m, 1H), 3.81 (m, 1H), 2.99 (heptet, J=6.8 Hz, 1H), 2.87 (m, 1H), 2.76 (m, 1H), 2.42 (s, 3H), 1.22 (d, J=7.2 Hz, 3H), 1.12 (d, J=7.2 Hz, 3H); MS: (ES) m/z calculated for C21H20Cl2F3N5O [M+H]+486.1. found 486.1.

reactant | 3-bromo-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.095 mmol, 0.035 g | BrC1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)Cl)=O | C16H17BrClN3O
reactant | 4-chloro-3-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.27 mmol, 0.050 g | ClC=1C(=NNC1C(F)(F)F)C | C5H4ClF3N2
reactant | K2CO3 | 0.36 mmol, 0.050 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-chlorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.036 g, 78% | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)Cl)=O)C(F)(F)F | C21H20Cl2F3N5O
